US04071523
5. N-palmityl-N-phenacyl-N,N-dimethyl-ammonium bromide
A mixture of hexadecyldimethylamine (0.1 mol) and phenacyl bromide (0.1 mol) in ethanol was refluxed for 5 hours. Ethanol was removed under reduced pressure and the product was crystallised from acetone.

reactant | hexadecyldimethylamine | 0.1 mol | C(CCCCCCCCCCCCCCC)N(C)C | C18H39N
reactant | phenacyl bromide | 0.1 mol | C(C(=O)C1=CC=CC=C1)Br | C8H7BrO
solvent | ethanol | C(C)O | C2H6O
product | N-palmityl-N-phenacyl-N,N-dimethyl-ammonium bromide | [Br-].C(CCCCCCCCCCCCCCC)[N+](C)(C)CC(=O)C1=CC=CC=C1 | InChI=1S/C26H46NO.BrH/c1-4-5-6-7-8-9-10-11-12-13-14-15-16-20-23-27(2,3)24-26(28)25-21-18-17-19-22-25;/h17-19,21-22H,4-16,20,23-24H2,1-3H3;1H/q+1;/p-1
